US06770646B2
c) 5-[(3-Chlorophenyl)methyl]4-{2-[(1,1-dimethylethyl)dimethylsilyl]oxyethoxy}thiophene-3-carboxylic acid
Methyl 5-[(3-chlorophenyl)methyl]-4-{2-[(1,1-dimethylethyl)dimethylsilyl]oxyethoxy}thiophene-3-carboxylate (10.2 g) was dissolved in a mixture of 1M lithium hydroxide (50 ml), methanol (50 ml) and tetrahydrofuran (150 ml) and stirred for 18 hr. The reaction mixture was concentrated and the residue was partitioned between dichloromethane and 2M hydrochloric acid. The organic layer was collected, dried and filtered. t-Butyl-dimethylsilyl chloride (7 g) and imidazole (3.1 g) were added to the solution and the mixture was stirred for 72 hours. The reaction mixture was concentrated and the residue was dissolved in methanol. Potassium carbonate (5 g) was added to the solution and the suspension was vigorously stirred for 3 minutes, then filtered and concentrated. The residue was dissolved in ethyl acetate, washed with 2M hydrochloric acid, dried, filtered and concentrated. The residue was purified by chromatography, eluting with 10:1:1 isohexane:ethyl acetate:acetic acid, to give the sub-title compound (4.2 g).

reactant | Methyl 5-[(3-chlorophenyl)methyl]-4-{2-[(1,1-dimethylethyl)dimethylsilyl]oxyethoxy}thiophene-3-carboxylate | 10.2 g | ClC=1C=C(C=CC1)CC1=C(C(=CS1)C(=O)OC)OCCO[Si](C)(C)C(C)(C)C | C21H29ClO4SSi
solvent | lithium hydroxide | 1M, 50 ml | [OH-].[Li+]
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-[(3-Chlorophenyl)methyl]4-{2-[(1,1-dimethylethyl)dimethylsilyl]oxyethoxy}thiophene-3-carboxylic acid | 4.2 g | ClC=1C=C(C=CC1)CC1=C(C(=CS1)C(=O)O)OCCO[Si](C)(C)C(C)(C)C | C20H27ClO4SSi
